US07897597B2
Ethyl 5-acetoxy-2-(5-methyltetrazol-1-yl)benzoate (164 g, 0.565 mol) was dissolved in 500 mL of DMF and immersed in a water bath. Potassium ethoxide (52.3 g, 0.621 mol) was added to this solution portionwise, keeping the reaction temperature below 40° C. After 30 minutes, the reaction was poured into 4 L of water and ammonium chloride was added to the solution until the product precipitated. After one hour of stirring, the precipitate was filtered and dried under a flow of air to give 98.5 g of ethyl 5-hydroxy-2-(5-methyltetrazol-1-yl)benzoate as a white solid.

reactant | Ethyl 5-acetoxy-2-(5-methyltetrazol-1-yl)benzoate | 0.565 mol, 164 g | C(C)(=O)OC=1C=CC(=C(C(=O)OCC)C1)N1N=NN=C1C | C13H14N4O4
reactant | Potassium ethoxide | 0.621 mol, 52.3 g | [O-]CC.[K+]
reactant | water | 4 L | O | H2O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | DMF | 500 mL | CN(C)C=O | C3H7NO
product | ethyl 5-hydroxy-2-(5-methyltetrazol-1-yl)benzoate | 98.5 g | OC=1C=CC(=C(C(=O)OCC)C1)N1N=NN=C1C | C11H12N4O3
